US05002966
2-[2-[(6-Bromohexyl)oxy]ethyl]thiophene
A mixture of 2-thienylethanol (10.0 g), 1,6-dibromohexane (57.10 g) and TAB (1.3 g) in 40% sodium hydroxide solution (40 ml) was stirred vigorously under nitrogen at room temperature for 5 h. The mixture was diluted with water (400 ml) and extracted with diethyl ether (2×300 ml), dried and evaporated in vacuo to give an oil. Purification by FCC eluting with hexane-ether (100:0→95:5) gave the title compound as a colourless oil (19.28 g), t.l.c. (hexane-ether 9:1) Rf 0.39.

reactant | 2-thienylethanol | 10.0 g | S1C(=CC=C1)C(C)O | C6H8OS
reactant | 1,6-dibromohexane | 57.10 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]thiophene | 19.28 g | BrCCCCCCOCCC=1SC=CC1 | C12H19BrOS
